US07977358B2
A] 5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 164B], 3-cyclopropyl-3-oxo-2-(pyridine-4-carbonyl)-propionic acid ethyl ester (Example 162 A]) and 3-(trifluoromethyl)phenylhydrazine gave the title compound as a white solid (12%). MS: 402.4 (MH+).

reactant | 3-cyclopropyl-3-oxo-2-(pyridine-4-carbonyl)-propionic acid ethyl ester | C(C)OC(C(C(=O)C1CC1)C(=O)C1=CC=NC=C1)=O | C14H15NO4
reactant | 3-(trifluoromethyl)phenylhydrazine | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
product | 5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 12% | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=NC=C1 | C21H18F3N3O2
